US04954518
30 g of polyphosphoric acid was added to 1.0 g of trans-3-[4-(2,4-difluorophenoxy)-3-methylsulfonylaminophenoxylacrylic acid. The mixture was stirred for 1 hour at 55°-65° C. The reaction mixture was introduced into 200 ml of ice water. 50 ml of ethyl acetate was added thereto. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (eluant: a 5 : 1 mixture of toluene and ethyl acetate) to obtain 0.4 g (yield: 42.0%) of 6-(2,4-difluorophenoxy)-7-methylsulfonylamino-4H-1-benzopyran-4-one. Melting point: 182.2°-182.8° C. (recrystallized from ethyl acetate)

reactant | 4-(2,4-difluorophenoxy)-3-methylsulfonylaminophenoxylacrylic acid | FC1=C(OC2=C(C=C(OC(C(=O)O)=C)C=C2)NS(=O)(=O)C)C=CC(=C1)F | C16H13F2NO6S
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 6-(2,4-difluorophenoxy)-7-methylsulfonylamino-4H-1-benzopyran-4-one | 0.4 g, yield: 42.0% | FC1=C(OC=2C(=CC3=C(C(C=CO3)=O)C2)NS(=O)(=O)C)C=CC(=C1)F | C16H11F2NO5S
